US07425631B2
Step D. Preparation of methyl-(7-piperidin-1-ylmethyl-chroman-4-yl)-carbamic acid tert-butyl ester
A mixture of (7-formyl-chroman-4-yl)-methyl-carbamic acid tert-butyl ester (554 mg, 1.90 mmol, 1.0 eq), piperidine (Aldrich, 195 mg, 2.28 mmol, 1.2 eq), NaBH(OAc)3 (Aldrich, 805 mg, 3.8 mmol, 2.0 eq) and glacial HOAc (J. T. Baker, 114 mg, 1.90 mmol, 1.0 eq) in ClCH2—CH2Cl (8 mL) was stirred at RT for 4 h. The reaction was quenched with saturated Na2CO3 (50 mL) The crude was extracted with CH2Cl2 (60 mL×3). The extract phase was washed with saturated NaCl, dried over Na2SO4, filtered and concentrated. Flash column chromatography (silica gel, 0-5% MeOH—CH2Cl2) afforded the title compound as colorless sticky solid. MS (ESI, pos. ion) m/z: 361 (M+1).

reactant | (7-formyl-chroman-4-yl)-methyl-carbamic acid tert-butyl ester | 1.90 mmol, 554 mg, 1.0 eq | C(C)(C)(C)OC(N(C)C1CCOC2=CC(=CC=C12)C=O)=O | C16H21NO4
reactant | piperidine | 2.28 mmol, 195 mg, 1.2 eq | N1CCCCC1 | C5H11N
reactant | NaBH(OAc)3 | 3.8 mmol, 805 mg, 2.0 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HOAc | 1.90 mmol, 114 mg, 1.0 eq | CC(=O)O | C2H4O2
solvent | ClCH2—CH2Cl | 8 mL | ClCCCl | C2H4Cl2
product | methyl-(7-piperidin-1-ylmethyl-chroman-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1CCOC2=CC(=CC=C12)CN1CCCCC1)C)=O | C21H32N2O3
